US04950678
Sulfuryl chloride (4.68 g, 2.80 ml, 34.7 mmol) is added dropwise to 1-(2,6-dichloro-4-nitrophenyl)pyrrole (4.46 g, 17.4 mmol), prepared from 2,6-dichloro-4-nitroaniline and 2,5-dimethoxytetrahydrofuran following Example 12 procedures, in 20 ml of ether at 0°. After addition is completed, the mixture is stirred at RT for 60 hours. The reaction mixture is then poured into saturated aqueous sodium bicarbonate and extracted with ether. The combined organic layers are washed with brine, dried and stripped of solvent. The residue is purified by prep. TLC to give 2,5-dichloro-1-(2,6-dichloro-4-nitrophenyl)pyrrole, which is reduced with 16% aq. titanium(III) chloride to give 3,5-dichloro-4-(2,5-dichloro-1-pyrrolyl)aniline.

reactant | Sulfuryl chloride | 34.7 mmol, 2.80 ml, 4.68 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1-(2,6-dichloro-4-nitrophenyl)pyrrole | 17.4 mmol, 4.46 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)N1C=CC=C1 | C10H6Cl2N2O2
reactant | 2,6-dichloro-4-nitroaniline | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | 2,5-dimethoxytetrahydrofuran | COC1OC(CC1)OC | C6H12O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2,5-dichloro-1-(2,6-dichloro-4-nitrophenyl)pyrrole | ClC=1N(C(=CC1)Cl)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C10H4Cl4N2O2
